US06998258B1
10. L-pantolactone hydrolysis by E. coli XL1Blue pKS+681
A full inoculating loop of E. coli XL1Blue pKS+681 was grown (overnight, 37° C.) on an LB plate with ampicillin (100 μg/ml), IPTG (0.2 mM) and X-Gal (80 mg/l) and then resuspended (OD600=2.5) in 0.5 ml of Tris-HCl pH 7.0 and 50 mM D,L-pantolactone. A corresponding E. coli XL1Blue pBluescriptKS+-sample (OD600=2.5) was a useful comparison. After 1 h, the cells were centrifuged down and D,L-pantolactone, D,L-, D-, and L-pantoic acid were determined by HPLC analysis. Tab. 6a shows the activities and ee values for the various samples. The suspension had an activity of >90 U/L. However, no significant activity was evident in liquid culture batches (cf. Example 12).

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | IPTG | 0.2 mM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | X-Gal | C1=CC(=C(C2=C1NC=C2O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O)O)Cl)Br | C14H15BrClNO6
reactant | L-pantoic acid | CC(C)(CO)[C@@H](C(=O)O)O | C6H12O4
solvent | Tris-HCl | 0.5 ml, pH 7.0 | C(C(CO)(CO)N)O.Cl
product | L-pantolactone | CC1(COC(=O)[C@H]1O)C | C6H10O3
